US07176224B2
A. 2-Phenoxybutyric acid ethyl ester
Phenol (28.5 g, 0.30 mol), Cs2CO3 (197.0 g, 0.61 mol), and ethyl 2-bromobutyrate (0.30 mol) were combined in anhydrous DMF (1000 mL) and stirred at 90° C. under an atmosphere of nitrogen. After 16 h, the DMF was removed in vacuo. The residue was dissolved in ethyl acetate (300 mL) and washed twice with water and once with brine. The organic layer was dried over Na2SO4 and concentrated in vacuo to produce an oil.

reactant | Phenol | 0.30 mol, 28.5 g | C1(=CC=CC=C1)O | C6H6O
reactant | Cs2CO3 | 0.61 mol, 197.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl 2-bromobutyrate | 0.30 mol | BrC(C(=O)OCC)CC | C6H11BrO2
solvent | DMF | 1000 mL | CN(C)C=O | C3H7NO
product | 2-Phenoxybutyric acid ethyl ester | C(C)OC(C(CC)OC1=CC=CC=C1)=O | C12H16O3
